US07649197B2
3.2 g (10 mmol) of 9-(4-biphenylyl)carbazole was dissolved in a mixed solution of 200 mL of glacial acetic acid, 200 mL of toluene, and 50 mL of ethyl acetate. 2.3 g (10 mmol) of N-iodosuccinimide was slowly added thereto. The mixture was stirred overnight (for about 24 hours) and then washed with water, a sodium thiosulfate water solution, and a saturated sodium chloride solution. Magnesium sulfate was added thereto to remove water and filtered to obtain a filtrate. The filtrate was concentrated, mixed with acetone and hexane, and then recrystallized with ultrasonic wave. This was filtered to obtain a residue. The residue was collected and dried. 4.4 g (yield: 98%) of 3-iodo-9-(4-biphenylyl)carbazole, which was beige powder, was obtained.

reactant | 9-(4-biphenylyl)carbazole | 10 mmol, 3.2 g | C1(=CC=C(C=C1)N1C2=CC=CC=C2C=2C=CC=CC12)C1=CC=CC=C1 | C24H17N
reactant | N-iodosuccinimide | 10 mmol, 2.3 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 3-iodo-9-(4-biphenylyl)carbazole | 4.4 g, yield: 98% | IC=1C=CC=2N(C3=CC=CC=C3C2C1)C1=CC=C(C=C1)C1=CC=CC=C1 | C24H16IN
